US08124641B2
Starting with ((R)-4-{methyl-[3-(1-methylene-propyl)-5-trifluoromethyl-benzenesulfonyl]-amino}-4,5,6,7-tetra-hydro-indazol-1-yl)-acetic acid ethyl ester and a solution of diazomethane in diethyl ether using the method analogous to the one described above for 2nd step of example 14-1, ((R)-4-{[3-(1-ethyl-cyclopropyl)-5-trifluoromethyl-benzenesulfonyl]-methyl-amino}-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (82 mg, 83%) was obtained as a white solid. MS cald. for C24H30F3N3O4S 513, obsd. (ESI+) [(M+H)+] 514.

reactant | ((R)-4-{methyl-[3-(1-methylene-propyl)-5-trifluoromethyl-benzenesulfonyl]-amino}-4,5,6,7-tetra-hydro-indazol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(S(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)C(CC)=C)C)=O | C23H28F3N3O4S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | ((R)-4-{[3-(1-ethyl-cyclopropyl)-5-trifluoromethyl-benzenesulfonyl]-methyl-amino}-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | 82 mg, 83% | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(C)S(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)C1(CC1)CC)=O | C24H30F3N3O4S
